US08207172B2
Preparation of N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-3-(2-morpholin-4-ylethyl)-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine
To 2 mL CH3CN were sequentially added 2-[6-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-3-yl]ethyl methanesulfonate (80 mg, 0.13 mmol), morpholine (18 mg, 0.20 mmol), and diisopropylethylamine (35 mg, 0.27 mmol). The reaction mixture was then heated up to 70° C. for 14 h. Upon cooling down, the crude was purified by HPLC to afford the desired product as an off-white solid (45 mg, 54%). 1H-NMR (DMSO-d6) δ 8.38 (s, 1H), 7.80 (d, 1H), 7.53 (s, 1H), 7.44 (dd, 1H), 7.38 (m, 1H), 7.24 (m, 2H), 7.04 (td, 1H), 6.98 (d, 1H), 6.95 (s, 1H), 5.13 (s, 2H), 4.18 (t, 2H), 3.63 (t, 4H), 3.35 (t, 2H), 3.14 (t, 2H), 2.78 (t, 2H), 2.45 (t, 4H); LCMS RT=2.72 min; [M+H]+=591.2.

reactant | 2-[6-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-3-yl]ethyl methanesulfonate | 0.13 mmol, 80 mg | CS(=O)(=O)OCCN1N=CC=2C3=C(CCC12)C1=C(S3)N=CN=C1NC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)Cl | C27H23ClFN5O4S2
reactant | morpholine | 0.20 mmol, 18 mg | N1CCOCC1 | C4H9NO
reactant | diisopropylethylamine | 0.27 mmol, 35 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH3CN | 2 mL | CC#N | C2H3N
product | N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-3-(2-morpholin-4-ylethyl)-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine | 45 mg, 54% | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1N=CN=C2C1C1=C(C=3C=NN(C3CC1)CCN1CCOCC1)S2 | C30H28ClFN6O2S
